US05270289
2-(4,6-dimethoxy-2-pyrimidinyloxy)-2-phenylacetic acid
5 g (16 mmol) Methyl 2-(4,6-dimethoxy-2-pyrimidinyloxy)-2-phenylacetate was dissolved in 50 ml water/ethanol (1:1) and treated with 0.9 g potassium hydroxide. After stirring for 16 hours at room temperature, the mixture was extracted with ethyl acetate. The aqueous phase was acidified with 10% hydrochloric acid until it was pH 2 and extracted with ethyl acetate. After drying over magnesium sulphate, the ethyl acetate phase was concentrated the solid residue recrystallised from diisopropyl ether/ethyl acetate mixture.

reactant | Methyl 2-(4,6-dimethoxy-2-pyrimidinyloxy)-2-phenylacetate | 16 mmol, 5 g | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)C1=CC=CC=C1 | C15H16N2O5
reactant | potassium hydroxide | 0.9 g | [OH-].[K+]
solvent | water ethanol | 50 ml | O.C(C)O
product | 2-(4,6-dimethoxy-2-pyrimidinyloxy)-2-phenylacetic acid | COC1=NC(=NC(=C1)OC)OC(C(=O)O)C1=CC=CC=C1 | C14H14N2O5
